US06737435B1
(ii) Methyl N-(3,4-dichlorophenylsulphonyl)-5-hydroxyindole-2-carboxylate
A suspension of 5% palladium on carbon in ethyl acetate (450 ml) and methyl N-(3,4-dichlorophenylsulphonyl)-5-benzyloxyindole-2-carboxylate(2.01 g) was stirred at 60° c under hydrogen at atmospheric pressure for 48 hours. The catalyst was removed by filtration and the filtrate concentrated in vacuo. The residue was purified by column chromatography using 20%ethyl acetate/isohexane as eluent to give the desired product as a gum (270 mg,16%). NMR: δ 3.85(s, 31H), 7.0 (m, 2H), 7.35 (s, 1H), 7.9 (m, 3H), 8.1 (s, 1H), 9.6 (s, 1H); m/z 401.9 (MH+).

reactant | methyl N-(3,4-dichlorophenylsulphonyl)-5-benzyloxyindole-2-carboxylate | 2.01 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OC | C23H17Cl2NO5S
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
product | Methyl N-(3,4-dichlorophenylsulphonyl)-5-hydroxyindole-2-carboxylate | 270 mg, 16% | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(=CC2=CC(=CC=C12)O)C(=O)OC | C16H11Cl2NO5S
